US07897792B2
(2-Fluoro-3-nitrophenyl)methanol
DIBAL (115.7 mL, 1.0 M in toluene) was added at −78° C. to a solution of 2-fluoro-3-nitrobenzoic acid methyl ester (compound 2b-1) (9.22 g, 46.3 mmol) in toluene (92 mL), and the reaction mixture was stirred at −78° C. for 30 minutes and at 0° C. for 30 minutes. The resultant reaction solution was cooled again to −78° C., and methanol, aqueous saturated Rochelle salt solution and ethyl acetate were added thereto. The reaction mixture was then stirred at room temperature for 1 hour, and extracted three times with ethyl acetate. The organic layer was washed with saturated saline and dried over magnesium sulfate. The title compound (7.52 g, 95%) was then obtained by vacuum concentration as a brown oil.

reactant | DIBAL | 1.0 M, 115.7 mL | CC(C)C[AlH]CC(C)C
reactant | 2-fluoro-3-nitrobenzoic acid methyl ester | 46.3 mmol, 9.22 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C8H6FNO4
reactant | methanol | CO | CH4O
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 92 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Fluoro-3-nitrophenyl)methanol | 7.52 g, 95% | FC1=C(C=CC=C1[N+](=O)[O-])CO | C7H6FNO3
